US06280897B1
Adamantane-1-carboxylic acid and potassium permanganate were reacted by oxidation using sodium hydroxide as a catalyst to obtain adamantan-1-ol, 4-carboxylic acid.

reactant | Adamantane-1-carboxylic acid | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
catalyst | sodium hydroxide | [OH-].[Na+]
product | adamantan-1-ol | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
